US07250518B2
[3-Fluoro-4-({[2-(4-fluoro-phenoxy)-pyridine-3-carbonyl]-amino}-methyl)-phenyl]-acetic acid of Formula (6.5.11):
[3-Fluoro-4-({[2-(4-fluoro-phenoxy)-pyridine-3-carbonyl]-amino}-methyl)-phenyl]-acetic acid ethyl ester (1.45 g) was combined with lithium hydroxide (0.59 g) in a 30 mL solution of tetrahydrofuran:water (2:1). The reaction mixture was heated to 55° C. in an oil bath for 1 h. The reaction mixture was allowed to cool to ambient temperature, and the organic solvent was removed in vacuo. The remaining portion of the reaction mixture was brought to pH=3 with 3N hydrochloric acid. The mixture was extracted with ethyl acetate (5×40 mL). The combined organics were dried over magnesium sulfate, filtered, and concentrated to dryness in vacuo. The crude product was purified by recrystallization (ethyl acetate) to yield the pure product (0.700 g).

reactant | [3-Fluoro-4-({[2-(4-fluoro-phenoxy)-pyridine-3-carbonyl]-amino}-methyl)-phenyl]-acetic acid ethyl ester | 1.45 g | C(C)OC(CC1=CC(=C(C=C1)CNC(=O)C=1C(=NC=CC1)OC1=CC=C(C=C1)F)F)=O | C23H20F2N2O4
reactant | lithium hydroxide | 0.59 g | [OH-].[Li+]
solvent | tetrahydrofuran water | O1CCCC1.O
product | [3-Fluoro-4-({[2-(4-fluoro-phenoxy)-pyridine-3-carbonyl]-amino}-methyl)-phenyl]-acetic acid | 0.700 g | FC=1C=C(C=CC1CNC(=O)C=1C(=NC=CC1)OC1=CC=C(C=C1)F)CC(=O)O | C21H16F2N2O4
